US07947738B2
(32-d) Methyl 3-hydroxy-4-(1-vinylcyclobutyl)butanoate
A dichloromethane solution (80 mL) of oxalyl chloride (1.88 mL, 22.5 mmol) was cooled to −78° C., and a dichloromethane solution (20 mL) of dimethyl sulfoxide (3.0 mL, 43.0 mmol) was added dropwise thereto. The mixture was stirred at −78° C. for 10 minutes. Then, a dichloromethane solution (20 mL) of (1-vinylcyclobutyl)ethanol (1.94 g, 15 mmol) was added dropwise thereto, and the mixture was further stirred at −78° C. for 3 hours. Triethylamine (8 mL, 60 mmol) was added thereto, and the mixture was gradually brought to room temperature and then stirred for 1 hour. 1 N hydrochloric acid and saturated saline were added thereto, followed by extraction with dichloromethane. The organic layer was washed with saturated saline and then dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. The residue was dissolved in tetrahydrofuran (40 mL). To the solution, trimethylboron (6.2 mL) and zinc powder (4.46 g) were added, and methyl bromoacetate (4.2 mL, 44.1 mmol) was then added dropwise thereto. After stirring at room temperature for 30 minutes, the reaction solution was heated to 40° C. and stirred for 20 minutes. The mixture was further brought to room temperature and stirred for 1 hour, and glycerol, water, and saturated saline were then added thereto, followed by extraction with ethyl acetate. The organic layer was washed with saturated saline and then dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by column chromatography to obtain the compound of interest as a colorless oil substance (1.22 g, 40%).

reactant | oxalyl chloride | 22.5 mmol, 1.88 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 43.0 mmol, 3.0 mL | CS(=O)C | C2H6OS
reactant | (1-vinylcyclobutyl)ethanol | 15 mmol, 1.94 g | C(=C)C1(CCC1)C(C)O | C8H14O
reactant | Triethylamine | 60 mmol, 8 mL | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 1 N | Cl | ClH
reactant | methyl bromoacetate | 44.1 mmol, 4.2 mL | BrCC(=O)OC | C3H5BrO2
solvent | water | O | H2O
solvent | glycerol | OCC(O)CO | C3H8O3
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
product | Methyl 3-hydroxy-4-(1-vinylcyclobutyl)butanoate | OC(CC(=O)OC)CC1(CCC1)C=C | C11H18O3
